US08084623B2
A solution of 2-propyl-2-(1H-pyrrolo[2,3-b]pyridine-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.240 g, 0.672 mmol) in 1N methanolic HCl (10.1 mL) was stirred at 20° C. under nitrogen for 18 hours. The reaction mixture was concentrated in vacuo then triturated with DCM (5 mL) and concentrated in vacuo to yield (2-propyl-pyrrolidin-2-yl)-(1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone (0.215 g, 0.652 mmol, 97%) as a white powder and as a monohydrochioride salt, MS=258 [M+H]+.

reactant | 2-propyl-2-(1H-pyrrolo[2,3-b]pyridine-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.672 mmol, 0.240 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C(=O)C=1C=C2C(=NC1)NC=C2)CCC | C20H27N3O3
solvent | HCl | 1N, 10.1 mL | Cl | ClH
product | (2-propyl-pyrrolidin-2-yl)-(1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone | 0.652 mmol, 0.215 g, 97% | C(CC)C1(NCCC1)C(=O)C=1C=C2C(=NC1)NC=C2 | C15H19N3O
